US04464366
A solution of 434.5 g of di-tert.-butyl dicarbonate in 250 ml of dioxan is added to a solution of 120 g of p-aminomethylacetophenone ethylene ketal in 1 liter of dioxan/water (1:1). The reaction mixture is stirred for 2 hours at room temperature, the pH being kept constant at 8.5 by the continuous addition of 2N NaOH (titrator). The reaction mixture is then taken up in ethyl acetate, washed neutral with aqueous NaCl solution, dried and concentrated by evaporation. The resulting crude product is chromatographed over 400 g of silica gel and, by crystallising the toluene eluates from hexane, N-BOC-p-aminomethylacetophenone ethylene ketal is obtained. Melting point 105°-107° C. IR: 3450, 1710, 1500 cm-1 (CH2Cl2).

reactant | di-tert.-butyl dicarbonate | 434.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | p-aminomethylacetophenone ethylene ketal | 120 g | C1COC(C)(C2=CC=C(C=C2)CN)O1 | C11H15NO2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | dioxan | 250 ml | O1CCOCC1 | C4H8O2
solvent | dioxan water | 1 liter | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-BOC-p-aminomethylacetophenone ethylene ketal | C1COC(C)(C2=CC=C(C=C2)CNC(=O)OC(C)(C)C)O1 | C16H23NO4
